US08022072B2
To a solution of methyl salicylate (1.512 g, 9.93 mmol) in N,N-dimethylformamide (15 ml) were added 3-fluorobenzyl bromide (1.3 ml, 10.6 mmol) and potassium carbonate (1.780 g, 12.88 mmol), and the mixture was stirred at 80° C. for 5 hr. Ethyl acetate was added to the reaction mixture, the mixture was washed with water, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to give methyl 2-(3-fluorobenzyloxy)benzoate (1.991 g, 7.65 mmol, yield 77%). This was dissolved in methanol (15 ml), 1N-aqueous sodium hydroxide solution (15 ml) was added at room temperature, and the mixture was stirred at 60° C. for 5 hr. The reaction mixture was concentrated under reduced pressure and neutralized with 1N-aqueous hydrochloric acid solution, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure to give a carboxylic acid compound 2-(3-fluorobenzyloxy)benzoic acid (1.790 g, 7.27 mmol, yield 95%).

reactant | methyl salicylate | 9.93 mmol, 1.512 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 3-fluorobenzyl bromide | 10.6 mmol, 1.3 ml | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | 12.88 mmol, 1.780 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl 2-(3-fluorobenzyloxy)benzoate | 7.65 mmol, 1.991 g, yield 77% | FC=1C=C(COC2=C(C(=O)OC)C=CC=C2)C=CC1 | C15H13FO3
